US06294674B1
Step (a) Dibenzofuran-3-sulfonyl Chloride
3-Aminodibenzofuran (10 g, 54.6 mmol) was diazotized by dissolving in 180 mL glacial acetic acid, 50 mL water, and 14 mL concentrated hydrochloric acid at 0° C. and adding 15 mL of a 5.5 M aqueous solution of sodium nitrite. The resulting mixture was stirred for 1 hour before pouring into a solution of copper(II)chloride (2.0 g, 14.9 mmol) in 240 mL of a 1:1 mixture of benzene and glacial acetic acid saturated with sulfur dioxide. This mixture was allowed to warm to room temperature and stirred for 16 hours. The reaction was partitioned between water and chloroform. The chloroform layer was washed with water, dried over magnesium sulfate, filtered, and concentrated to give the title compound as a yellowish solid.

reactant | 3-Aminodibenzofuran | 54.6 mmol, 10 g | NC=1C=CC2=C(OC3=C2C=CC=C3)C1 | C12H9NO
reactant | hydrochloric acid | 14 mL | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | 180 mL | C(C)(=O)O | C2H4O2
catalyst | copper(II)chloride | 14.9 mmol, 2.0 g | [Cu](Cl)Cl
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 50 mL | O | H2O
product | Dibenzofuran-3-sulfonyl Chloride | C1=CC(=CC=2OC3=C(C21)C=CC=C3)S(=O)(=O)Cl | C12H7ClO3S
